US08486967B2
b) 4-Phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamine
A solution of 2-bromo-6-phenyl-cyclohexanone (4.32 g, 17 mmol) and thiourea (1.18 g, 16 mmol) in EtOH (150 mL) was heated to reflux for 12 hours. The solvent was evaporated, diethyl ether was added to the residue and stirred at room temperature for 1 hour, the solid filtered off and washed with diethylether. The solid was dissolved in ethyl acetate and the organic phase was washed three times with sodium carbonate solution. The organic phase was dried over sodium sulfate, the solvent was evaporated to give the title compound as a white solid (3.46 g, 88%). MS ISP (m/e): 231.1 [(M+H)+].

reactant | 2-bromo-6-phenyl-cyclohexanone | 17 mmol, 4.32 g | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
reactant | thiourea | 16 mmol, 1.18 g | NC(=S)N | CH4N2S
solvent | EtOH | 150 mL | CCO | C2H6O
product | 4-Phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamine | 3.46 g, 88% | C1(=CC=CC=C1)C1CCCC2=C1N=C(S2)N | C13H14N2S
